US09062068B2
General Scheme for the Synthesis of Lupinane PKC Inhibitors
The lupinane amine.2HCl (1-[(1S,9aR)-octahydro-2H-quinolizin-1-yl]methanamine, CAS #: 75532-84-2, commercially available from ChemBridge, San Diego) (1.0 eq) was combined with 2,4-dichloro-5-X-pyrimidine (X=H, F, Cl, Me, CF3, CN, CONH2, OMe, NMe2) (1.0 eq) and NaHCO3 (1.2 eq). A mixture of MeOH:H2O (4/1) (concentration of the reaction mixture: ca. 0.1-0.5 M) was added and the resulting suspension was stirred for 1 d at RT. After the completion of the reaction was confirmed by TLC and HPLC, silica gel was added to the reaction mixture and solvents were evaporated under reduced pressure. The resulting solid was loaded on a CombiFlash column and further purified by flash chromatography eluting with DCM/MeOH—NH3 (2M) (gradient 0->10%).

reactant | 1-[(1S,9aR)-octahydro-2H-quinolizin-1-yl]methanamine | [C@H]1(CCCN2CCCC[C@H]12)CN | C10H20N2
reactant | NaHCO3 | 1.2 eq | C(=O)(O)[O-].[Na+]
reactant | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | Lupinane | C[C@@H]1CCCN2[C@@H]1CCCC2 | C10H19N
